2191-09-21 04:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Femoral line in place (right femoral line)
   -EKG no evidence of hyperkalemia
    -PARACENTESIS (2L removed)
   -Drinking contrast for CT of abdomen and pelvis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2191-9-20**] 10:00 PM
   Vancomycin - [**2191-9-21**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-9-21**] 02:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-9-21**] 12:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-21**] 04:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.5
C (95.9
   Tcurrent: 35.1
C (95.1
   HR: 105 (93 - 110) bpm
   BP: 102/37(53) {96/34(49) - 109/56(66)} mmHg
   RR: 21 (14 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.7 kg (admission): 78.7 kg
   Height: 67 Inch
    Bladder pressure: 17 (17 - 20) mmHg
   Total In:
                                                                  2,780 mL
                                                                  5,537 mL
   PO:
                                                                    180 mL
   TF:
   IVF:
                                                                  2,166 mL
                                                                  4,588 mL
   Blood products:
                                                                    614 mL
                                                                    769 mL
   Total out:
                                                                     49 mL
                                                                     16 mL
   Urine:
                                                                     49 mL
                                                                     16 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,731 mL
                                                                  5,521 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///11/
   Physical Examination
   Gen: Acute on chronically ill appearing middle aged male, NAD HEENT:
   sclera icteric, MMM slightly dry, OP with dried blood present CV:
   regular rate, tachycardic, no M/R/G, Lungs: CTA anteriorly [**Last Name (un) **]:
   decreased bowel sounds, soft, distended, + shifting dullness, mildly
   tender, no rebound/guarding Extrem: no edema Skin: icteric, warm,
   slightly [**Doctor Last Name 988**], spider angiomata
   Neuro: AAOx3,  + asterixis, tongue fasiculations
   Labs / Radiology
   134 K/uL
   8.2 g/dL
   104 mg/dL
   4.3 mg/dL
   11 mEq/L
   5.9 mEq/L
   90 mg/dL
   94 mEq/L
   124 mEq/L
   24.8 %
   33.8 K/uL
        [image002.jpg]
                             [**2191-9-20**]  09:36 PM
                             [**2191-9-21**]  02:57 AM
   WBC
   37.1
   33.8
   Hct
   25.6
   24.8
   Plt
   139
   134
   Cr
   4.2
   4.3
   Glucose
   97
   104
   Other labs: PT / PTT / INR:30.6/43.9/3.0, ALT / AST:23/44, Alk Phos / T
   Bili:72/12.9, Differential-Neuts:86.0 %, Band:3.0 %, Lymph:4.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:152 mg/dL, Lactic Acid:6.3 mmol/L,
   Albumin:2.5 g/dL, LDH:201 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:8.5
   mg/dL
   Assessment and Plan
   49M with PMHx significant for ESLD secondary to hepatitis C and EtOH
   abuse who presents with coffee ground emesis/melena, also septic in
   setting of no SBP prophylaxis.
   # Sepsis: Patient tachycardic, significantly elevated WBC count (>12),
   tachypnic, and has elevated lactate indicating most likely tissue
   hypoperfusion. [**Hospital1 69**] labs from [**9-20**] WBC count 37 with 14% bands, in ED
   WBC count 36. Most likely source is SBP given that patient had
   peritoneal catheter in place until recently, not on SBP prophylaxis.
   Patient started on empiric antibiotic treatment in ED given elevated
   WBC count. No clear history of fevers from patient, patient afebrile
   since arrival. Diagnostic paracentesis not done in ED because of
   elevated INR. Did diagnostic/therapeutic paracentesis on floor. Will
   treat empirically with Vancomycin and Zosyn given recent
   hospitalization and [**Hospital1 69**] exposures; may have skin flora in ascitic fluid
   given recent peritoneal catheter.  Ascites [**Numeric Identifier 9116**] WBCs, 93% PMNs, [**Numeric Identifier 9117**]
   RBCs. Consistent with SBP.  Given history of diarrhea as well will send
   stool for C.diff. Also pancultured and obtained CXR to rule out other
   infectious eitologies. Was receiving aggressive fluid rehydration which
   does not appear to have improved his clinical picture at all and
   patient not currently hypotensive; additionally, CXR this AM consistent
   with mild pulmonary edema.
   - D/c IVF, if hypotensive will plan to reinstitute volume repletion
   -Vancomycin and Zosyn
   -C. diff
   -Blood and urine cultures pending
   #. GI bleed: Per patient, has been experiencing this for several days,
   also having orthostasis. Given history, strong suspicion for variceal
   bleed. Most likely patient has slow bleed given that per his history
   this has been going on for several days. As patient also has elevated
   INR other sources of bleeding along upper GI tract also possible; upper
   source most likely given that he has coffee ground emesis and melanotic
   stool.  HCT trended down from admission, 29.9
 24.8 this morning, most
   likely dilutional as patient is not currently displaying evidence of
   active bleeding.
   -Liver plans for EGD, Colonoscopy once stabilized
   -T& S active
   -Octreotide gtt
   -Protonix IV BID
   -Zofran, NG Tube
   -HCT q4 hours
   .
   #Hyperkalemia: Patient has significantly elevated K+. EKG shows no
   evidence of cardiac instability secondary to hyperkalemia. Patient is
   on calcium for membrane stabilization. Kayexelate given x2. In the
   setting of oliguria will consult renal as hyperkalemia may be an
   indication for dialysis in this patient.
   -Kayexelate
   -K+ q4 hours
   -Renal consult
   #Metabolic Acidosis: Patient has a significantly elevated lactate, on
   arrival 6.8, trended down to 6.1, then this morning trending back up,
   6.3. Metabolic acidosis not improving. Initially thinking that most
   likely secondary to tissue hypoperfusion secondary to sepsis. Has not
   improved with aggressive fluids. [**Month (only) 11**] be because patient has no hepatic
   function to clear lactate. Also could possibly be secondary to bowel
   ischemia. KUB shows no evidence of free air so has not yet perforated,
   but may still have ischemia. Bowel sounds decreased this morning from
   exam on admission.
   -CT scan with PO contrast
   -Surgery consult
 agree with CT scan, feel that ischemia unlikely,
   will continue to follow
   .
   #Oliguria: Patient had bladder pressure of 22 on admit, 17 after
   paracentesis removing 2L. However, urine output has not significantly
   increased. Creatinine significantly increased from baseline, at
   baseline 0.7-1, today Cr 4.3. [**Month (only) 11**] have prerenal element secondary to
   hypovolemia or hepatorenal syndrome. FENa 0.29%, more consistent with
   prerenal eitiologies. In setting of sepsis likely hypoperfusion.
   Patient has received 6L NS (in addition to 1.5L in the ED), 4 units
   FFP, albumin 5%x1 dose. Not improving with aggressive fluids, making
   hepatorenal higher on differential.
   -Consult renal, may need dialysis
   -D/c IVF as above given pulmonary edema
   #.Coagulopathy: Patient's INR elevated at 4.3, at [**Hospital1 69**] on [**9-20**] it was
   5.3. Now at 3 with 4 units FFP. INR is significantly higher than his
   baseline. [**Month (only) 11**] represent acute worsening of his chronic ESLD. [**Month (only) 11**] also
   have a component of malnutrition as patient reports poor appetite
   recently. Unlikely to represent DIC in setting of sepsis as his
   fibrinogen is normal.
   -Reverse as possible with FFP, vitamin K  as need for procedures
   -nutrition c/s
   #ESLD: Patient is being worked up for transplant per Dr.[**Name (NI) 9100**] clinic
   notes. MELD currently 46. Liver team is following. Patient was supposed
   to see social worker on [**10-7**] to further evaluate suitability for
   transplant.
   -Abdominal ultrasound to assess for causes of acute worsening (Doppler,
   ect)
   #Ascites: Patient currently hypotensive, so holding Spirololactone and
   Lasix.
   #DM: Patient currently NPO
   -insulin S/S
   .
   #HTN: Patient currently hypotensive; holding home meds
   .
   #.Hypoalbuminemia: Albumin 2.3, most likely secondary to synthetic
   dysfunction.
   -Albumin with paracentesis
   .
   #Hypocalcemia: Giving calcium for hyperkalemia
   #Hyponatremic: Patient appeared hypovolemic on admission, hypovolemic
   hyponatremia most likely due to the fact that patient was significantly
   volume depleted, trying to replace lost fluid by drinking water.
   Currently improving.
   -Make sure medications given in saline not water
   -Once no longer NPO consider free water restriction
   #Hyperphosphatemia: Renagel TID
   .
   FEN: NPO as actively bleeding
   .
   PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen: Lactulose
   -Pain management
   ACCESS: PIV's, Right femoral line; right femoral line will need to be
   pulled today, will c/s renal first to see if they would like access for
   CVVH.
   .
   CODE STATUS: Confirmed full
   .
   EMERGENCY CONTACT: Sister [**Name (NI) 1479**], # [**Telephone/Fax (1) 9102**]. [**Name2 (NI) **] pt she is his HCP.
   Team spoke with her last night, she is planning on coming in this
   morning.
   .
   DISPOSITION: ICU for now
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2191-9-20**] 07:00 PM
   18 Gauge - [**2191-9-20**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-09-22 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2191-9-21**] 09:16 AM
 MULTI LUMEN - START [**2191-9-21**] 05:37 PM
 MULTI LUMEN - STOP [**2191-9-21**] 10:00 PM
   - Triple lumen L IJ placed
   - Renal: Agree with Octreotide and Albumin, would add Midodrine
   (however pt not taking PO's well). No indication for HD today but would
   likely need in next 24-48 hrs.
   - Initial identification of Staph Aureus in [**12-20**] BCx's
   - Cdiff ordered not collected
   - Para 4+ PMN's, no organisms
   - Na: 8am 123 --> 1pm 119 --> 5pm 122
   - K :    5.8  -->     5.4 -->     5.2
   - Hct:  24.6  -->     23.0 -->    22.6
   - RUQ u/s: Nodular cirrhotic liver with patent portal and hepatic
   venous systems. Large-volume ascites. No focal liver lesions.
   - CXR post line placement: right IJ catheter terminates in SVC. no
   pneumothorax. bilateral effusions, right greater than left, underlying
   atelectasis similar to 12 hours prior.
   - CT abd/pelvis without WET: Sequela of cirrhosis and portal
   hypertension with anasarca, large volume ascites, and bilateral small
   pleural effusions. Diffuse mild bowel wall thickening may represent
   third spacing, however more irrgular wall thickening is suggested in
   the colon- ischemia is not excluded, though evaluation without contrast
   is somewhat limited. Gastric distension with oral contrast passing into
   loops of nonobstructed small bowel. No pneumoperitoneum or focal fluid
   collection.
   - Gave 1U blood for Hct 21 945pm
   - Started Midodrine per renal recs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2191-9-20**] 10:00 PM
   Vancomycin - [**2191-9-21**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-9-21**] 10:47 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-9-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-22**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.8
C (96.5
   HR: 97 (93 - 113) bpm
   BP: 98/50(61) {86/34(47) - 110/72(81)} mmHg
   RR: 20 (14 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.7 kg (admission): 78.7 kg
   Height: 67 Inch
    CVP: 9 (5 - 299)mmHg
   Bladder pressure: 14 (14 - 14) mmHg
                                Total In:
                                                                  8,314 mL
                                                                    633 mL
   PO:
                                                                  1,270 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  6,275 mL
                                                                    223 mL
   Blood products:
                                                                    769 mL
                                                                    350 mL
   Total out:
                                                                     90 mL
                                                                    110 mL
   Urine:
                                                                     90 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,224 mL
                                                                    523 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///16/
   Physical Examination
    Appears very lethargic and closes eyes during conversation. Follows
   commands, is conversant. Thought he was at [**Hospital6 **] (last
   hospital) but knew he was wrong. Didn
t know day. Answered some
   questions with nonsense. Scleral icterus. Lungs sound fairly clear.
   Systolic murmur but regular rate. Abd distended but not tender. Skin
   jaundiced. R femoral catheter still in. New L IJ appears clean, intact.
   No BLE edema
   Labs / Radiology
   68 K/uL
   8.3 g/dL
   211 mg/dL
   5.0 mg/dL
   16 mEq/L
   4.5 mEq/L
   103 mg/dL
   94 mEq/L
   126 mEq/L
   23.4 %
   21.8 K/uL
        [image002.jpg]
                             [**2191-9-20**]  09:36 PM
                             [**2191-9-21**]  02:57 AM
                             [**2191-9-21**]  07:48 AM
                             [**2191-9-21**]  12:51 PM
                             [**2191-9-21**]  05:00 PM
                             [**2191-9-21**]  09:44 PM
                             [**2191-9-22**]  03:55 AM
   WBC
   37.1
   33.8
   35.9
   21.8
   Hct
   25.6
   24.8
   24.6
   23.0
   22.6
   21.8
   23.4
   Plt
   139
   134
   137
   68  *** verified by smear
   Cr
   4.2
   4.3
   4.5
   5.0
   Glucose
   97
   104
   149
   211
   Other labs: PT / PTT / INR:38.3/50.5/4.0   <--4.7, 3.3, 3.0 , ALT /
   AST:130/542, Alk Phos / T Bili:74/15.1, Differential-Neuts:86.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:152 mg/dL,
   Lactic Acid:2.9 mmol/L, Albumin:2.5 g/dL, LDH:214 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:8.0 mg/dL
   Imaging: [**2191-9-21**] CT abd/pelv
   IMPRESSION:
   1. Diffuse mild bowel wall thickening is likely secondary to third
   spacing
   in the setting of large volume ascites and anasarca. However, more
   irregular
   wall thickening in the transverse colon is noted and ischemia is not
   excluded,
   though evaluation is limited without contrast.
   2. Cirrhosis with evidence of portal hypertension including
   splenomegaly.
   Distal esophageal wall thickening likely represents varices, though
   evaluation
   is limited without contrast.
   3. Bibasilar lung consolidations are only partially imaged and while
   they may
   represent atelectasis, they are incompletely evaluated, as are small
   pleural
   effusion.
   4. Gastric distention, with contrast passing through into nonobstructed
   loops
   of small bowel.
   5. Nonobstructing small bilateral renal calculi.
   [**2191-9-21**] CXR
   FINDINGS: In comparison with the study of [**9-20**], there is continued low
   lung
   volumes. Increasing opacification at both bases consistent with
   layering
   effusion and bilateral atelectatic changes.
   The study is not upright and the possibility of free air cannot be
   assessed.
   If this is a serious clinical concern, CT would be necessary.
   [**2191-9-21**] RUQ u/s with dopplers
   CONCLUSION: Nodular cirrhotic liver with patent portal and hepatic
   venous
   systems. Large-volume ascites. No focal liver lesions.
   CXR this am pending
   Microbiology: [**2191-9-20**] [**12-20**] GPC's in clusters, presumptive ID is Staph
   aureus
   [**2191-9-20**] Para with 4+ PMN's however no organisms
   [**2191-9-21**] 2 BCx's negative
   [**2191-9-21**] UCx negative
   Assessment and Plan
   49M with PMHx significant for ESLD secondary to hepatitis C and EtOH
   abuse who presents with coffee ground emesis/melena, also septic in
   setting of no SBP prophylaxis.
   # Sepsis: Pt remains tachycardic, with systolics in the 80's to 110's,
   elevated WBC count although trended down today from 35 to 21, elevated
   lactate although also trending down, and acidotic with AG 15 although
   this is also trending down. Although Gstain negative likely source is
   SBP given 11k WBC's from para. Pt continues to be afebrile.
   --Continue Vanc and Zosyn today is day [**1-1**]
   --F/u Vanc level and adjust accordingly
   --No evidence of infectious source elsewhere (CXR with atelectasis, no
   clear PNA), UCx negative to date, negative imaging for other sources
 f/u: CXR with drastic worsening on L side, concern for effusion and
   PNA.
   --Yesterday has not been aggresively fluid resuscitated --> got 1U
   PRBC's for volume and Hct
   --Cdiff ordered but not collected
   --F/u cultures for sensitivities
   --Re-Cx if spikes temp
   --If continued hypoTN would first go with blood products as necessary,
   then NS, but is anuric and may volume overload him
   --Will need echo to make sure positive BCx
s didn
t seed valves
   --Get sputum Cx
   # Hepatic Encephalopathy: Pt appears more lethargic and somewhat
   confused this am. Tbili and LFT
s are also acutely increased
   --NGT and will need Lactulose today
   --F/u mental status through today
   #. GI bleed: Likely from varices. INR is elevated and has been creeping
   back up. Hct also trending down and received 1U PRBC's yesterday with
   appropriate bump in Hct but still low at 23. Liver plans for
   EGD/colonoscopy once stabilized
   --Touch base with liver about plans for procedure
   --T&S active until [**9-23**]
   --Has 1U crossmatched currently, if transfused another would need 2U
   more crossed
   --Has 2 PIV's and now L IJ
   --Octreotide gtt and Protonix IV
   --Hct q4hrs today
   --Would start Vitamin K x3d
   --Will follow platelets this pm and transfuse for <20 or <50 if active
   signs of bleeding
   --If active bleeding will need FFP
   #Hyperkalemia: Significantly elevated K+ on admission that has been
   trended down with Kayexalate. Calcium gluconate sliding scale for
   cardiac stabilization. Renal did not feel pt had acute need for
   dialysis. Latest K normal at 4.5
   --Can stop K q4hrs, will trend [**Hospital1 **] today
   --F/u with renal re: when to start dialysis, if necessary
   #Metabolic Acidosis: Gap is 16 this am, trending down from 20's,
   without fluid resuscitation, only significant intervention being
   antibiotics. Lactate also significantly down 2.9 from high 6's on
   admission. CT scans cannot rule out gut ischemia, but overall clinical
   picture is improving.
   --Continue to trend ABG's and chemistry panel to ensure closure of gap.
   --Surgery has been consulted and felt ischemia unlikely, continuing to
   follow, appreciate recs.
   #Oliguria: Patient had bladder pressure of 22 on admit, 17 after
   paracentesis removing 2L. UOP still remains poor through yesterday.
   Pre-renal due to hypovolemia (however, pt received 7.5L NS and was not
   responsive) vs hepatorenal syndrome.
   --Consult renal, may need dialysis today as pt continues to be
   acidotic.
   --Would try fluid resuscitation with blood products as needed for
   volume replacement first, then boluses of NS prn
   --Renal recs Midodrine for Hepatorenal syndrome, have ordered but pt
   may not be able to take [**Last Name (LF) **], [**First Name3 (LF) **] need tube placement if continued poor
   PO intake.
   #.Coagulopathy: INR trending back upwards. Has received 4U FFP but none
   yesterday. Normal fibrino rules out DIC.
   -Reverse as possible with FFP, vitamin K  as need for procedures
   -nutrition c/s
   #ESLD: Patient is being worked up for transplant per Dr.[**Name (NI) 9100**] clinic
   notes. MELD currently 46. Liver team is following. Patient was supposed
   to see social worker on [**10-7**] to further evaluate suitability for
   transplant. Abdominal ultrasound to assess for causes of acute
   worsening (Doppler, ect)
   --F/u with liver re: overall goals of care from liver standpoint.
   #Ascites: Patient currently hypotensive, so holding Spirololactone and
   Lasix.
   #DM: Patient currently NPO
   -insulin S/S
   #HTN: Patient currently hypotensive; holding home meds
   #.Hypoalbuminemia: Albumin 2.3, most likely secondary to synthetic
   dysfunction.
   -Albumin with paracentesis
   #Hypocalcemia: Giving calcium for hyperkalemia
   #Hyponatremic: Pt appeared hypovolemic on admission, hypovolemic
   hyponatremia most likely due to the fact that patient was significantly
   volume depleted, trying to replace lost fluid by drinking water.
   Currently improving.
   --As above, consider giving some NS through today
   #Hyperphosphatemia: Sevelamir TID
   FEN: NPO as actively bleeding
   PPX:
   -DVT ppx with pneumoboots, no anticoagulation
   -Bowel regimen: Lactulose
   -Pain management
   ACCESS: PIV's, Right femoral line; right femoral line will need to be
   pulled today, will c/s renal first to see if they would like access for
   CVVH.
   CODE STATUS: Confirmed full
   EMERGENCY CONTACT: Sister [**Name (NI) 1479**], # [**Telephone/Fax (1) 9102**]. [**Name2 (NI) **] pt she is his HCP.
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2191-9-21**] 05:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-09-23 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2191-9-20**] 10:00 PM
   Vancomycin - [**2191-9-22**] 11:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-9-23**] 02:40 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-9-23**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-23**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 101 (91 - 115) bpm
   BP: 111/51(65) {100/44(56) - 143/84(91)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.7 kg (admission): 78.7 kg
   Height: 67 Inch
    CVP: 10 (9 - 17)mmHg
   Bladder pressure: 22 (22 - 22) mmHg
   Total In:
                                                                  1,811 mL
                                                                    233 mL
   PO:
                                                                    150 mL
   TF:
   IVF:
                                                                    961 mL
                                                                    233 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                    733 mL
                                                                    220 mL
   Urine:
                                                                    633 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,078 mL
                                                                     13 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///17/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   50 K/uL
   9.3 g/dL
   181 mg/dL
   5.6 mg/dL
   17 mEq/L
   3.5 mEq/L
   112 mg/dL
   95 mEq/L
   130 mEq/L
   25.9 %
   18.3 K/uL
        [image002.jpg]
                             [**2191-9-21**]  02:57 AM
                             [**2191-9-21**]  07:48 AM
                             [**2191-9-21**]  12:51 PM
                             [**2191-9-21**]  05:00 PM
                             [**2191-9-21**]  09:44 PM
                             [**2191-9-22**]  03:55 AM
                             [**2191-9-22**]  10:56 AM
                             [**2191-9-22**]  05:00 PM
                             [**2191-9-22**]  11:49 PM
                             [**2191-9-23**]  04:38 AM
   WBC
   33.8
   35.9
   21.8
   19.5
   18.3
   Hct
   24.8
   24.6
   23.0
   22.6
   21.8
   23.4
   23.9
   27.5
   26.6
   25.9
   Plt
   134
   137
   68
   58
   50
   Cr
   4.3
   4.5
   5.0
   5.3
   5.6
   Glucose
   104
   149
   211
   218
   181
   Other labs: PT / PTT / INR:36.3/50.7/3.7, CK / CKMB / Troponin-T:73//,
   ALT / AST:97/252, Alk Phos / T Bili:83/15.1, Differential-Neuts:86.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:152 mg/dL,
   Lactic Acid:2.9 mmol/L, Albumin:2.5 g/dL, LDH:214 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:7.9 mg/dL
   Assessment and Plan
 HEPATIC ENCEPHALOPATHY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ACIDOSIS, METABOLIC
 OLIGURIA/ANURIA
 COAGULOPATHY
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS, CHRONIC VIRAL
 ASCITES
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
 HYPOCALCEMIA (LOW CALCIUM)
   49M with PMHx significant for ESLD secondary to hepatitis C and EtOH
   abuse who presents with coffee ground emesis/melena, also septic in
   setting of no SBP prophylaxis.
   # Sepsis: Pt remains tachycardic, with systolics in the 80's to 110's,
   elevated WBC count although trended down today from 35 to 21, elevated
   lactate although also trending down, and acidotic with AG 15 although
   this is also trending down. Although Gstain negative likely source is
   SBP given 11k WBC's from para. Pt continues to be afebrile.
   --Continue Vanc and Zosyn today is day [**1-1**]
   --F/u Vanc level and adjust accordingly
   --No evidence of infectious source elsewhere (CXR with atelectasis, no
   clear PNA), UCx negative to date, negative imaging for other sources
 f/u: CXR with drastic worsening on L side, concern for effusion and
   PNA.
   --Yesterday has not been aggresively fluid resuscitated --> got 1U
   PRBC's for volume and Hct
   --Cdiff ordered but not collected
   --F/u cultures for sensitivities
   --Re-Cx if spikes temp
   --If continued hypoTN would first go with blood products as necessary,
   then NS, but is anuric and may volume overload him
   --Will need echo to make sure positive BCx
s didn
t seed valves
   --Get sputum Cx
   # Hepatic Encephalopathy: Pt appears more lethargic and somewhat
   confused this am. Tbili and LFT
s are also acutely increased
   --NGT and will need Lactulose today
   --F/u mental status through today
   #. GI bleed: Likely from varices. INR is elevated and has been creeping
   back up. Hct also trending down and received 1U PRBC's yesterday with
   appropriate bump in Hct but still low at 23. Liver plans for
   EGD/colonoscopy once stabilized
   --Touch base with liver about plans for procedure
   --T&S active until [**9-23**]
   --Has 1U crossmatched currently, if transfused another would need 2U
   more crossed
   --Has 2 PIV's and now L IJ
   --Octreotide gtt and Protonix IV
   --Hct q4hrs today
   --Would start Vitamin K x3d
   --Will follow platelets this pm and transfuse for <20 or <50 if active
   signs of bleeding
   --If active bleeding will need FFP
   #Hyperkalemia: Significantly elevated K+ on admission that has been
   trended down with Kayexalate. Calcium gluconate sliding scale for
   cardiac stabilization. Renal did not feel pt had acute need for
   dialysis. Latest K normal at 4.5
   --Can stop K q4hrs, will trend [**Hospital1 **] today
   --F/u with renal re: when to start dialysis, if necessary
   #Metabolic Acidosis: Gap is 16 this am, trending down from 20's,
   without fluid resuscitation, only significant intervention being
   antibiotics. Lactate also significantly down 2.9 from high 6's on
   admission. CT scans cannot rule out gut ischemia, but overall clinical
   picture is improving.
   --Continue to trend ABG's and chemistry panel to ensure closure of gap.
   --Surgery has been consulted and felt ischemia unlikely, continuing to
   follow, appreciate recs.
   #Oliguria: Patient had bladder pressure of 22 on admit, 17 after
   paracentesis removing 2L. UOP still remains poor through yesterday.
   Pre-renal due to hypovolemia (however, pt received 7.5L NS and was not
   responsive) vs hepatorenal syndrome.
   --Consult renal, may need dialysis today as pt continues to be
   acidotic.
   --Would try fluid resuscitation with blood products as needed for
   volume replacement first, then boluses of NS prn
   --Renal recs Midodrine for Hepatorenal syndrome, have ordered but pt
   may not be able to take [**Last Name (LF) **], [**First Name3 (LF) **] need tube placement if continued poor
   PO intake.
   #.Coagulopathy: INR trending back upwards. Has received 4U FFP but none
   yesterday. Normal fibrino rules out DIC.
   -Reverse as possible with FFP, vitamin K  as need for procedures
   -nutrition c/s
   #ESLD: Patient is being worked up for transplant per Dr.[**Name (NI) 9100**] clinic
   notes. MELD currently 46. Liver team is following. Patient was supposed
   to see social worker on [**10-7**] to further evaluate suitability for
   transplant. Abdominal ultrasound to assess for causes of acute
   worsening (Doppler, ect)
   --F/u with liver re: overall goals of care from liver standpoint.
   #Ascites: Patient currently hypotensive, so holding Spirololactone and
   Lasix.
   #DM: Patient currently NPO
   -insulin S/S
   #HTN: Patient currently hypotensive; holding home meds
   #.Hypoalbuminemia: Albumin 2.3, most likely secondary to synthetic
   dysfunction.
   -Albumin with paracentesis
   #Hypocalcemia: Giving calcium for hyperkalemia
   #Hyponatremic: Pt appeared hypovolemic on admission, hypovolemic
   hyponatremia most likely due to the fact that patient was significantly
   volume depleted, trying to replace lost fluid by drinking water.
   Currently improving.
   --As above, consider giving some NS through today
   #Hyperphosphatemia: Sevelamir TID
   FEN: NPO as actively bleeding
   PPX:
   -DVT ppx with pneumoboots, no anticoagulation
   -Bowel regimen: Lactulose
   -Pain management
   ACCESS: PIV's, Right femoral line; right femoral line will need to be
   pulled today, will c/s renal first to see if they would like access for
   CVVH.
   CODE STATUS: Confirmed full
   EMERGENCY CONTACT: Sister [**Name (NI) 1479**], # [**Telephone/Fax (1) 9102**]. [**Name2 (NI) **] pt she is his HCP.
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2191-9-21**] 05:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-09-24 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TEE if intubated, per cards not today
   - ID c/s
   - cipro profalaxis started
   - nafacillin started at high dose for endocarditis (dose ok'd by
   pharmacy)
   - ID: 4wks nafacillin, d/c zosyn, cipro profalaxis good, repeat
   diagnostic para
   - PM Hct 20 -> given 1 unit pRBC -> 23
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2191-9-22**] 11:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-9-23**] 11:00 AM
   Nafcillin - [**2191-9-24**] 06:42 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-9-24**] 12:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-24**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.9
C (96.6
   HR: 107 (103 - 117) bpm
   BP: 110/62(75) {101/42(56) - 129/62(75)} mmHg
   RR: 19 (14 - 20) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.7 kg (admission): 78.7 kg
   Height: 67 Inch
    CVP: 12 (5 - 14)mmHg
   Total In:
                                                                  1,100 mL
                                                                    616 mL
   PO:
   TF:
   IVF:
                                                                    750 mL
                                                                    241 mL
   Blood products:
                                                                    350 mL
                                                                    375 mL
   Total out:
                                                                  2,940 mL
                                                                    270 mL
   Urine:
                                                                    840 mL
                                                                    270 mL
   NG:
   Stool:
                                                                  2,100 mL
   Drains:
   Balance:
                                                                 -1,840 mL
                                                                    346 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   Awake, somnolent
   Tachy, no murmur, decreased BS at bases
   Abd distended, nontender
   Trace edema
   Labs / Radiology
   23 K/uL
   8.4 g/dL
   180 mg/dL
   5.0 mg/dL
   18 mEq/L
   3.2 mEq/L
   138 mg/dL
   98 mEq/L
   133 mEq/L
   23.6 %
   12.5 K/uL
        [image002.jpg]
                             [**2191-9-21**]  09:44 PM
                             [**2191-9-22**]  03:55 AM
                             [**2191-9-22**]  10:56 AM
                             [**2191-9-22**]  05:00 PM
                             [**2191-9-22**]  11:49 PM
                             [**2191-9-23**]  04:38 AM
                             [**2191-9-23**]  12:11 PM
                             [**2191-9-23**]  05:26 PM
                             [**2191-9-23**]  09:52 PM
                             [**2191-9-24**]  04:26 AM
   WBC
   21.8
   19.5
   18.3
   20.5
   12.5
   Hct
   21.8
   23.4
   23.9
   27.5
   26.6
   25.9
   24.8
   25.7
   20.1
   23.6
   Plt
   68
   58
   50
   44
   23
   Cr
   5.0
   5.3
   5.6
   4.5
   5.0
   Glucose
   [**Telephone/Fax (3) 9174**]89
   180
   Other labs: PT / PTT / INR:36.2/52.8/3.7, CK / CKMB / Troponin-T:73//,
   ALT / AST:65/119, Alk Phos / T Bili:69/19.7, Differential-Neuts:86.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:152 mg/dL,
   Lactic Acid:2.2 mmol/L, Albumin:3.1 g/dL, LDH:203 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.5 mg/dL, PO4:9.1 mg/dL
   Assessment and Plan
 HEPATIC ENCEPHALOPATHY
 SEPSIS WITHOUT ORGAN
   DYSFUNCTION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ACIDOSIS, METABOLIC
 OLIGURIA/ANURIA
 COAGULOPATHY
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS, CHRONIC VIRAL
 ASCITES
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
 HYPOCALCEMIA (LOW CALCIUM)
   49M with PMHx significant for ESLD secondary to hepatitis C and EtOH
   abuse who presents with coffee ground emesis/melena, also septic in
   setting of no SBP prophylaxis.
   # Sepsis: Pt remains tachycardic. WBC count elevated but trending down.
   Staph aureus coag + growing from blood and peritoneal fluid. Most
   likely source is peritoneal catheter seeding peritoneum. Evidence of
   vegetation on [**Last Name (LF) **], [**First Name3 (LF) 116**] treat aggressively with 4wk course per ID.
   Patient will need TEE to confirm.   Patient continues to have
   appropriate O2 sats, lung bases dull but no crackles appreciated.
   Started nafacillin, zosyn d/c'd, cipro started for prophylaxis.
   --f/u ID recs
   --TEE Monday
   --Cipro 250 mg PO daily for SBP prophylaxis
   --F/u cultures for sensitivities
   --Re-Cx if spikes temp
   --Get sputum Cx
   # Hepatic Encephalopathy: Pt appears less confused this am. LFTs
   currently trending down again after being acutely elevated yesterday;
   may have been elevated yesterday secondary to irritation from large
   pleural effusion. T. Bili trending up today.
   --NGT given lactulose
   --Rifaxamine as well per liver recommendations.
   #. GI bleed: Likely from varices vs. gastropathy. INR is elevated and
   has been creeping back up. Hct also trending down and received 1U
   PRBC's yesterday with appropriate bump in Hct but still low at 25.9.
   Liver plans for EGD/colonoscopy once stabilized.
   --T&S active
   --Has 2 PIV's and now L IJ
   --Octreotide gtt and Protonix IV
   --Hct q8hrs today, if sign of acute bleeding would check HCT.
   --Would start Vitamin K x3d
   --Will follow platelets [**Hospital1 **] and transfuse for <20 or <50 if active
   signs of bleeding
   --If active bleeding will need FFP
   #Metabolic Acidosis: Gap is 22 this am, increased slightly. CT scans
   cannot rule out gut ischemia, but overall clinical picture is
   improving. Lactate improving.
   --Surgery has been consulted and felt ischemia unlikely, continuing to
   follow, appreciate recs.
   #Oliguria: UOP improving today. Pre-renal due to hypovolemia vs
   hepatorenal syndrome vs ATN.  Given 1g Albumin.
   --Renal following, felt no need for dialysis at this time given that
   hyperkalemia improved.
   --Renal recs Midodrine for Hepatorenal syndrome
   #.Coagulopathy: INR trending back upwards. Normal fibrinogen rules out
   DIC. Vitamin K given for 3 days yesterday.
   -Reverse as possible with FFP, vitamin K  as need for procedures
   -nutrition c/s
   #ESLD/Ascites: Per liver team it seems that patient is not a transplant
   candidate at this time because of recent drinking. Patient currently
   hypotensive, so holding Spirololactone and Lasix.
   #DM: Patient currently NPO
   -insulin S/S
   #HTN: Patient currently hypotensive; holding home meds
   #.Hypoalbuminemia: Albumin 2.3, most likely secondary to synthetic
   dysfunction.
   -Albumin with paracentesis
   #Hyponatremic: Pt appeared hypovolemic on admission, hypovolemic
   hyponatremia most likely due to the fact that patient was significantly
   volume depleted, trying to replace lost fluid by drinking water.
   Currently improving as patient NPO.
   #Thrombocytopenia: Patient at his personal baseline (from prior
   hospitalization) though trending down today. Would check PM platelets.
   #Hyperphosphatemia: Sevelamir TID
   FEN: NPO as actively bleeding
   PPX:
   -DVT ppx with pneumoboots, no anticoagulation
   -Bowel regimen: Lactulose
   -Pain management
   ACCESS: PIV's, IJ
   CODE STATUS: Confirmed full
   EMERGENCY CONTACT: Sister [**Name (NI) 1479**], # [**Telephone/Fax (1) 9102**]. [**Name2 (NI) **] pt she is his HCP.
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2191-9-21**] 05:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I have seen & examined this pt, & was physically present with the ICU
   team for the key portions of services provided. I agree with Dr.
   [**Last Name (STitle) 8866**]
s note, including assessment and plan. I would add:
    49 yo m with EtOH/hep C cirrhosis admitted with GI bleed,
   sepsis/suspected SBP.
   Overnight events:
   abx changed to nafcillin /cipro for better coverage of presumed
   endocarditis/SBP
   PE
   Still somnolent but able to answer simple questions
   HR 100
s, SBP 100
   Lungs: mostly CTA, slightly decrease at bases
   CV: RRR
   Abd: soft, nt+bs
   Labs: WBC down to 12 , plts down to 23 (135 a few days ago), Cr 5
   (unchanged)
   Rx: SSI, lactulose, cipro, rifaximin, mitodrine, albumin,
   (1)sepsis : Sources include SBP and MSSA bacteremia/periotonitis
   secondary to PD catheter. Echo equivocoal for endocarditis though this
   likely would represent bacteremia with secondary seeding of the valve.
   He  appears to be responding to abx as his WBC is decreasing, though he
   remains tachycardic.For now plan empiric [**2-21**] wk abx therapy given
   question of endocarditis. Surveillance cultures so far negative.
   2() Hep. encephalopathy: slow improvt on lactulose
   (3) GI bleed- no recent active bleeding, hct slowly drifting down. Plan
   for 'scope likely next wk
   (4) thrombocytopenia: causes include sepsis, worsening renal failure,
   medications. If counts drop significantly lower, will support with
   transfusion. Otherwise will trend CBC to see if this improves now that
   zosyn has been stopped
   (5) ARF: Low FENA c/w pre-renal vs (more likely) HRS. On
   Mitodrine/octeotride; Cr unchanged, but urine output acceptable at
   30-60 cc/h
   Pt is critically ill. Total time spent: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2191-9-24**] 12:32 ------

2191-09-25 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2191-9-24**] 09:55 PM
   - Plan to scope on [**Last Name (LF) 305**], [**First Name3 (LF) **] TEE at same time?
   - Transplant surgery: continue supportive care/TF's and signing off
   - ID recs: follow LFT's for Nafcillin, will need 4wks Nafcillin, repeat
   para in 48-72 hrs, repeat Cx's for fevers (?-hard to read)
   - Renal recs: continue supportive care, prognosis poor, no need HD
   today. Dose meds for CrCl <10, replete K.
   - 3pm labs: K better 3.6, Bicarb still 18, Creat improved 4.5, Mg
   slight high 2.7, Phos high 9.2, Hct and Plts improved 25.5 and 31.
   - 11pm Hct: 26.[**3-21**] need repeat Dx para on [**Month (only) 305**]
   - HyperPhos --> sevelamir hydrochloride switched to sevelamir
   carbonate, but that can't be crushed and mixed with H20 for NGT. So,
   contact pharmacy who suggested [**Name (NI) 9183**] x3days, but that is contraindicated
   in GIB. Need to contact renal about what to give --> spoke with renal
   who said Renagel (sevelamir HCl) would probably be ok. If Phos >10 need
   to give Amphigel ([**Name (NI) 9183**]) but not >3days. Need to contact nutrition and
   make sure low phos diet --> Novasource renal is the lowest phos TF's
   there are.
   - Switched back to Sevelamir HCl
   - UOP decreasing through the day
   - 10pm tachy to 150's with atrial tachycardia, given Lopressor 5 IV x2
   and 250cc bolus, stat Hct sent which was 26.4 (roughly where he has
   been)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2191-9-22**] 11:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-9-23**] 11:00 AM
   Nafcillin - [**2191-9-24**] 01:48 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Metoprolol - [**2191-9-24**] 10:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-25**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.5
   HR: 107 (92 - 151) bpm
   BP: 105/51(64) {82/36(47) - 128/67(81)} mmHg
   RR: 14 (12 - 18) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 78.7 kg
   Height: 67 Inch
    CVP: 6 (4 - 116)mmHg
   Total In:
                                                                  1,832 mL
                                                                    471 mL
   PO:
   TF:
                                                                     97 mL
   IVF:
                                                                  1,001 mL
                                                                    121 mL
   Blood products:
                                                                    375 mL
                                                                    350 mL
   Total out:
                                                                  2,005 mL
                                                                    230 mL
   Urine:
                                                                  1,055 mL
                                                                    230 mL
   NG:
   Stool:
                                                                    950 mL
   Drains:
   Balance:
                                                                   -173 mL
                                                                    241 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///18/
   Physical Examination
   Gen: Chronically ill appearing middle aged man lying in bed moaning
   HEENT: scleral icterus, NGT in place
   CV: RRR, no M/R/G
   Lungs: CTA b/l, breath sounds decreased at bases
   Abdomen: decreased but present bowel sounds, soft, distended, tender
   diffusely, no rebound or guarding
   Extrem: no edema
   Labs / Radiology
   26 K/uL
   8.3 g/dL
   180 mg/dL
   5.2 mg/dL
   18 mEq/L
   3.4 mEq/L
   140 mg/dL
   102 mEq/L
   139 mEq/L
   23.0 %
   12.3 K/uL
         [image002.jpg]
                             [**2191-9-22**]  05:00 PM
                             [**2191-9-22**]  11:49 PM
                             [**2191-9-23**]  04:38 AM
                             [**2191-9-23**]  12:11 PM
                             [**2191-9-23**]  05:26 PM
                             [**2191-9-23**]  09:52 PM
                             [**2191-9-24**]  04:26 AM
                             [**2191-9-24**]  01:40 PM
                             [**2191-9-24**]  10:15 PM
                             [**2191-9-25**]  02:56 AM
   WBC
   19.5
   18.3
   20.5
   12.5
   12.3
   Hct
   27.5
   26.6
   25.9
   24.8
   25.7
   20.1
   23.6
   25.5
   26.4
   23.0
   Plt
   58
   50
   44
   23
   31
   26
   Cr
   5.3
   5.6
   4.5
   5.0
   4.5
   5.2
   Glucose
   [**Telephone/Fax (3) 9184**]80
   180
   Other labs: PT / PTT / INR:36.2/57.4/3.7, CK / CKMB / Troponin-T:73//,
   ALT / AST:46/65, Alk Phos / T Bili:64/21.4, Differential-Neuts:86.6 %,
   Band:0.0 %, Lymph:6.6 %, Mono:4.2 %, Eos:2.3 %, Fibrinogen:152 mg/dL,
   Lactic Acid:2.2 mmol/L, Albumin:3.1 g/dL, LDH:203 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.8 mg/dL, PO4:8.5 mg/dL
   Assessment and Plan
 HEPATIC ENCEPHALOPATHY
 SEPSIS WITHOUT ORGAN
   DYSFUNCTION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ACIDOSIS, METABOLIC
 OLIGURIA/ANURIA
 COAGULOPATHY
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS, CHRONIC VIRAL
 ASCITES
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
 HYPOCALCEMIA (LOW CALCIUM)
   49M with PMHx significant for ESLD secondary to hepatitis C and EtOH
   abuse who presents with coffee ground emesis/melena, also septic in
   setting of no SBP prophylaxis. Abdominal pain today.
   # Sepsis: Pt remains tachycardic. WBC count elevated but trending down.
   Staph aureus coag +  sensitive to oxacillin growing from blood and
   peritoneal fluid. Most likely source is peritoneal catheter seeding
   peritoneum. Evidence of vegetation on [**Last Name (LF) **], [**First Name3 (LF) 116**] treat aggressively with
   4wk course per ID.  Patient may need TEE to confirm, but that has
   significant risks.   Patient continues to have appropriate O2 sats,
   lung bases dull but no crackles appreciated. Started nafacillin, zosyn
   d/c'd, cipro started for prophylaxis.
   --Nafacillin for staph aureus in blood and peritoneal fluid
   --TEE [**First Name3 (LF) 305**] possibly with EGD
   --Cipro 250 mg PO daily for SBP prophylaxis
   --Re-Cx if spikes temp
   --Will need repeat paracentesis [**First Name3 (LF) 305**]
   --F/u ID recs
   #Abdominal Pain: Patient appears in a fair amount of pain this morning,
   reports that it is his usual liver pain. Continues to have flatus,
   bowel sounds present but decreased, doesn
t have an acute abdomen
   making perforation unlikely.
   --KUB to assess for perforation
   --Morphine as needed for pain control
   # Hepatic Encephalopathy: Pt appears less confused this am. LFTs
   currently trending down again after being acutely elevated on [**9-22**]; may
   have been elevated yesterday secondary to irritation from large pleural
   effusion. T. Bili continues to trend up.
   --NGT given lactulose
   --Rifaxamine as well per liver recommendations.
   #. GI bleed: Likely from varices vs. gastropathy. INR is elevated and
   has been creeping back up. Liver plans for EGD/colonoscopy most likely
   on [**Month/Day (1) 305**].
   --T&S active
   --Has 2 PIV's and now L IJ
   --Octreotide gtt and Protonix IV
   --Hct q8hrs today, if sign of acute bleeding would check HCT.
   --Will follow platelets [**Hospital1 **] and transfuse for <20 or <50 if active
   signs of bleeding
   --If active bleeding will need FFP
   #Tachycardia: Patient had one episode of tachycardia yesterday.
   Resolved with IV lopressor and fluid boluses. Patient was significantly
   negative prior to episode of tachycardia, may have been secondary to
   hypovolemia. [**Month (only) 11**] have been pain. Became sinus after fluids and
   lopressor. No signs of acute bleeding, HCT was not decreased.
   --Continue to monitor
   #Metabolic Acidosis: Gap is 22 this am. CT scans cannot rule out gut
   ischemia, but overall clinical picture is improving. Lactate improving.
   --Surgery has been consulted and felt ischemia unlikely
   --F/u renal recommendations
   #Oliguria: UOP decreasing today. Pre-renal due to hypovolemia vs
   hepatorenal syndrome vs ATN.  Given 1g Albumin.
   --Renal following, felt no need for dialysis at this time given that
   hyperkalemia improved.
   --Renal recs Midodrine for Hepatorenal syndrome
   --Will check bladder pressure to ensure that patient does not need
   therapeutic paracentesis.
   #.Coagulopathy: INR trending back upwards. Normal fibrinogen rules out
   DIC.
   -Reverse as possible with FFP, vitamin K  as need for procedures
   -nutrition c/s
   #ESLD/Ascites: Per liver team it seems that patient is not a transplant
   candidate at this time because of recent drinking. Patient currently
   hypotensive, so holding Spirololactone and Lasix.
   #DM: Patient receiving TF, on insulin s/s
   -insulin S/S
   #HTN: Patient currently hypotensive; holding home meds
   #.Hypoalbuminemia: Albumin 3.1, most likely secondary to synthetic
   dysfunction.
   -Albumin with paracentesis
   #Thrombocytopenia: Patient
s personal baseline (from prior
   hospitalization) 40s-50s. Today 26. Would check PM platelets.
   FEN: TF novasource renal 10mL/hour
   PPX:
   -DVT ppx with pneumoboots, no anticoagulation
   -Bowel regimen: Lactulose
   -Pain management
   ACCESS: PIV's, IJ
   CODE STATUS: Confirmed full
   EMERGENCY CONTACT: Sister [**Name (NI) 1479**], # [**Telephone/Fax (1) 9102**]. [**Name2 (NI) **] pt she is his HCP.
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2191-9-21**] 05:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-09-26 06:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - increasing abdominal pain, KUB read as no signs of acute abdomen;
   given 4 mg IV morphine in AM, appeared more confused after this
   - liver recs: will discuss goals of care with family, at this time not
   planning on EGD
   - renal recs: d/c sevelamer
   - ID recs: Paracentesis tomorrow and no TEE b/c it would not change
   management.
   - Hct at noon and 8pm: 23.3
 25.4
   - Plt at 8pm: 29
   - Per ID does not need TEE as will not change abx duration; TEE fellow
   made aware
   - Bladder pressure 19
   - In pain at 10pm, given 2mg of IV morphine, then another 1mg.
   - Sister will be in tomorrow and would like to meet with liver team.  ?
   family meeting.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2191-9-23**] 11:00 AM
   Nafcillin - [**2191-9-25**] 10:38 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Morphine Sulfate - [**2191-9-25**] 07:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-26**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.6
C (96
   HR: 99 (92 - 106) bpm
   BP: 101/51(63) {90/37(50) - 129/61(72)} mmHg
   RR: 11 (10 - 14) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87.6 kg (admission): 78.7 kg
   Height: 67 Inch
    CVP: 16 (12 - 19)mmHg
   Bladder pressure: 19 (19 - 19) mmHg
   Total In:
                                                                  1,965 mL
                                                                    111 mL
   PO:
   TF:
                                                                    115 mL
   IVF:
                                                                  1,139 mL
                                                                    111 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    515 mL
                                                                  2,160 mL
   Urine:
                                                                    515 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,450 mL
                                                                 -2,049 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///17/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   32 K/uL
   8.8 g/dL
   226 mg/dL
   5.4 mg/dL
   17 mEq/L
   3.6 mEq/L
   142 mg/dL
   104 mEq/L
   142 mEq/L
   24.8 %
   19.7 K/uL
        [image002.jpg]
                             [**2191-9-23**]  12:11 PM
                             [**2191-9-23**]  05:26 PM
                             [**2191-9-23**]  09:52 PM
                             [**2191-9-24**]  04:26 AM
                             [**2191-9-24**]  01:40 PM
                             [**2191-9-24**]  10:15 PM
                             [**2191-9-25**]  02:56 AM
                             [**2191-9-25**]  12:00 PM
                             [**2191-9-25**]  07:53 PM
                             [**2191-9-26**]  03:15 AM
   WBC
   20.5
   12.5
   12.3
   19.7
   Hct
   24.8
   25.7
   20.1
   23.6
   25.5
   26.4
   23.0
   23.3
   25.4
   24.8
   Plt
   44
   23
   31
   26
   29
   32
   Cr
   4.5
   5.0
   4.5
   5.2
   5.4
   Glucose
   189
   180
   180
   226
   Other labs: PT / PTT / INR:36.3/56.3/3.7, CK / CKMB / Troponin-T:73//,
   ALT / AST:42/51, Alk Phos / T Bili:65/24.7, Differential-Neuts:86.6 %,
   Band:0.0 %, Lymph:6.6 %, Mono:4.2 %, Eos:2.3 %, Fibrinogen:152 mg/dL,
   Lactic Acid:2.2 mmol/L, Albumin:3.1 g/dL, LDH:203 IU/L, Ca++:7.0 mg/dL,
   Mg++:3.0 mg/dL, PO4:9.5 mg/dL
   Assessment and Plan
 HEPATIC ENCEPHALOPATHY
 SEPSIS WITHOUT ORGAN
   DYSFUNCTION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ACIDOSIS, METABOLIC
 OLIGURIA/ANURIA
 COAGULOPATHY
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS, CHRONIC VIRAL
 ASCITES
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
 HYPOCALCEMIA (LOW CALCIUM)
   49M with PMHx significant for ESLD secondary to hepatitis C and EtOH
   abuse who presents with coffee ground emesis/melena, also septic in
   setting of no SBP prophylaxis. Abdominal pain today. Most important
   item of plan is to discuss goals of care with sister in the setting of
   an overall very poor prognosis.
   # Sepsis: Pt remains tachycardic. WBC count significantly elevated
   today to 19.7. Staph aureus coag +  sensitive to oxacillin growing from
   blood and peritoneal fluid. Most likely source is peritoneal catheter
   seeding peritoneum. Evidence of vegetation on [**Last Name (LF) **], [**First Name3 (LF) 116**] treat
   aggressively with 4wk course per ID.  Patient continues to have
   appropriate O2 sats, lung bases dull but no crackles appreciated.
   Started nafacillin, zosyn d/c'd, cipro started for prophylaxis.
   --Nafacillin for staph aureus in blood and peritoneal fluid
   --Cipro 250 mg PO daily for SBP prophylaxis
   --Panculture including repeat paracentesis; most likely source
   continues to be peritoneal fluid given that patient has abdominal pain
   #Abdominal Pain: Patient appears in a fair amount of pain this morning,
   reports that it is his usual liver pain. Continues to have flatus,
   bowel sounds present but decreased, doesn
t have an acute abdomen
   making perforation unlikely.  KUB showed no evidence of free air.
   -- Lactate
   --Morphine as needed for pain control
   -- Paracentesis
   # Hepatic Encephalopathy: Pt appeared less confused yesterday morning
   prior to morphine, then obtunded after morphine. Tried to use smaller
   morphine doses to prevent obtundation, but patient continued to have
   abdominal pain. LFTs currently trending down again after being acutely
   elevated on [**9-22**]; may have been elevated yesterday secondary to
   irritation from large pleural effusion. T. Bili continues to trend up.
   --NGT given lactulose
   -- Will decrease lactulose given that patient has already made 2L of
   stool
   --Rifaxamine as well per liver recommendations.
   #. GI bleed: Likely from varices vs. gastropathy. INR is elevated and
   has been creeping back up.
    --T&S active
   --Has 2 PIV's and now L IJ
   --Octreotide gtt and Protonix IV
   --Hct [**Hospital1 **] today, if sign of acute bleeding would check HCT.
   --Will follow platelets [**Hospital1 **] and transfuse for <20 or <50 if active
   signs of bleeding
   --If active bleeding will need FFP
   #Tachycardia: Patient had one episode of tachycardia [**9-24**]. Resolved
   with IV lopressor and fluid boluses. Patient was significantly negative
   prior to episode of tachycardia, may have been secondary to
   hypovolemia. [**Month (only) 11**] have been pain. Became sinus after fluids and
   lopressor. No signs of acute bleeding, HCT was not decreased.
   --Continue to monitor
   #Metabolic Acidosis: Gap is 25 this am. CT scans cannot rule out gut
   ischemia.
   -- Recheck lactate
   --Surgery has been consult if lactate trending up
   --F/u renal recommendations
   #Oliguria: UOP decreasing today. Pre-renal due to hypovolemia vs
   hepatorenal syndrome vs ATN.  Given 1g Albumin.
   --Renal following, would possibly consider dialysis depending on goals
   of care
   --Renal recs Midodrine for Hepatorenal syndrome
   --Will check bladder pressure to ensure that patient does not need
   therapeutic paracentesis.
   #.Coagulopathy: INR trending back upwards. Normal fibrinogen rules out
   DIC.
   -Reverse as possible with FFP, vitamin K  as need for procedures
   -nutrition c/s
   #ESLD/Ascites: Per liver team it seems that patient is not a transplant
   candidate at this time because of recent drinking, also current
   infection. Liver team plans to discuss goals of care with family today
   given that patient not a transplant candidate. Patient currently
   hypotensive, so holding Spirololactone and Lasix.
   #DM: Patient receiving TF, on insulin s/s
   -insulin S/S
   #HTN: Patient currently hypotensive; holding home meds
   #.Hypoalbuminemia: Albumin 3.1, most likely secondary to synthetic
   dysfunction.
   -Albumin with paracentesis
   #Thrombocytopenia: Patient
s personal baseline (from prior
   hospitalization) 40s-50s. Today 32, trending back up.
   -Continue to monitor daily
   FEN: TF novasource renal 10mL/hour
   PPX:
   -DVT ppx with pneumoboots, no anticoagulation
   -Bowel regimen: Lactulose
   -Pain management
   ACCESS: PIV's, IJ
   CODE STATUS: Confirmed full
   EMERGENCY CONTACT: Sister [**Name (NI) 1479**], # [**Telephone/Fax (1) 9102**]. [**Name2 (NI) **] pt she is his HCP.
   [**Name (NI) 149**] for family meeting today to discuss goals of care.
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2191-9-21**] 05:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-09-26 11:40:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: liver failure, peritonitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   continued abd pain
   increased WBC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2191-9-25**] 10:38 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   revieweed from [**Month (only) **]. ABX: cipro, nafcillin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-26**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.4
C (95.8
   HR: 104 (92 - 108) bpm
   BP: 116/55(71) {90/42(56) - 129/59(72)} mmHg
   RR: 12 (10 - 14) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87.6 kg (admission): 78.7 kg
   Height: 67 Inch
   CVP: 14 (12 - 19)mmHg
   Bladder pressure: 19 (19 - 19) mmHg
   Total In:
                                                                  1,965 mL
                                                                    272 mL
   PO:
   TF:
                                                                    115 mL
   IVF:
                                                                  1,139 mL
                                                                    212 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    515 mL
                                                                  2,202 mL
   Urine:
                                                                    515 mL
                                                                    202 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,450 mL
                                                                 -1,930 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///17/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly; dull
   posteriorly)
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   32 K/uL
   226 mg/dL
   5.4 mg/dL
   17 mEq/L
   3.6 mEq/L
   142 mg/dL
   104 mEq/L
   142 mEq/L
   24.8 %
   19.7 K/uL
        [image002.jpg]
                             [**2191-9-23**]  12:11 PM
                             [**2191-9-23**]  05:26 PM
                             [**2191-9-23**]  09:52 PM
                             [**2191-9-24**]  04:26 AM
                             [**2191-9-24**]  01:40 PM
                             [**2191-9-24**]  10:15 PM
                             [**2191-9-25**]  02:56 AM
                             [**2191-9-25**]  12:00 PM
                             [**2191-9-25**]  07:53 PM
                             [**2191-9-26**]  03:15 AM
   WBC
   20.5
   12.5
   12.3
   19.7
   Hct
   24.8
   25.7
   20.1
   23.6
   25.5
   26.4
   23.0
   23.3
   25.4
   24.8
   Plt
   44
   23
   31
   26
   29
   32
   Cr
   4.5
   5.0
   4.5
   5.2
   5.4
   Glucose
   189
   180
   180
   226
   Other labs: PT / PTT / INR:36.3/56.3/3.7, CK / CKMB / Troponin-T:73//,
   ALT / AST:42/51, Alk Phos / T Bili:65/24.7, Differential-Neuts:86.6 %,
   Band:0.0 %, Lymph:6.6 %, Mono:4.2 %, Eos:2.3 %, Fibrinogen:152 mg/dL,
   Lactic Acid:2.2 mmol/L, Albumin:3.1 g/dL, LDH:203 IU/L, Ca++:7.0 mg/dL,
   Mg++:3.0 mg/dL, PO4:9.5 mg/dL
   Imaging: right effusion
   Assessment and Plan
   49-year-old man with
          ESLD
          Acute renal failure
          Peritonitis (MSSA)
          Anemia
          Encephalopathy (hepatic)
          Probable endocarditis
          GI bleed (quiescent at present)
   Main current issue is that WBC has markedly increased.  Will pursue
   diagnostic paracentesis today as per ID.  Continue present ABX for now,
   and appreciate ID
s help.
   Since prolonged ABX required for peritonitis, not pursuing TEE as per
   ID.
   Appreciate hepatology
s help.  They plan to review prognosis and
   situation with family today.  His prognosis is dire.  Anticipate
   discussion with HCP today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2191-9-21**] 05:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   FAMILY MEETING
   Dr. [**First Name (STitle) **] (hepatology attending), along with patient
s nurse, led family
   meeting with HCP.  [**Name (NI) **] prognosis and limited therapeutic options
   discussed, and all questions answered.  She wishes to focus on comfort
   and pain-control, rather than attempts at prolongation.  This seems
   very reasonable.  We will therefore move to comfort measures only.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 906**], MD
   on:[**2191-9-26**] 14:34 ------